US04792560
B. O-Benzyl-N-phenethylhydroxylamine
To a methanolic solution of the crude product from 2A (8 g in 50 ml) was added portionwise 5 g of NaCNBH3 over a period of 1 hour. The reaction solution was maintained at pH 3 by occasional addition of 1N HCl/CH3OH solution using bromocresol green as an indicator. The reaction mixture was then stirred for an additional 1 hour. The solution was made basic to pH 10 and then extracted with ethyl acetate. The combined organic extracts were dried, evaporated to dryness and the residue was purified by dry column chromatography to give 5.5 g of oily product.

reactant | NaCNBH3 | 5 g | [BH3-]C#N.[Na+]
reactant | HCl CH3OH | 1N | Cl.CO
reactant | bromocresol green | CC1=C(C=C(C(=C1Br)O)Br)C2(C=3C=CC=CC3S(=O)(=O)O2)C=4C=C(C(=C(C4C)Br)O)Br | C21H14Br4O5S
product | O-Benzyl-N-phenethylhydroxylamine | 5.5 g | C(C1=CC=CC=C1)ONCCC1=CC=CC=C1 | C15H17NO
